US07563805B2
1-Benzyloxycarbonyl-3-(tert-butoxycarbonylamino)-4-methoxy-3-methylpyrrolidine
To a solution of 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylic acid (0.3 g, 1.02 mmol) in toluene (10 mL), triethylamine (0.29 mL, 2.05 mmol) and diphenyl phosphoryl azide (0.24 mL, 1.13 mmol) were added, and the mixture was stirred at 125° C. for 2 hours. After concentrating the reaction mixture under reduced pressure, 1,4-dioxane (4 mL), water (4 mL) and concentrated hydrochloric acid (1 mL) were added to the residue, and the mixture was stirred at 50° C. for 2 hours. Water (10 mL) was added to the reaction mixture, and the mixture was washed with ethyl acetate (10 mL). The aqueous layer was alkalized with 10N sodium hydroxide aqueous solution, and extracted by chloroform (20 mL×3). The extract was washed with saturated aqueous solution of sodium chloride (20 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was dissolved in ethanol (10 mL). Di-tert-butyl dicarbonate (0.27 g, 1.22 mmol) was added to the solution, and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 6:1) to obtain 0.27 g (72%) of racemic body of the title compound as a colorless oily product.

reactant | 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylic acid | 1.02 mmol, 0.3 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C(=O)O)C | C15H19NO5
reactant | triethylamine | 2.05 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 1.13 mmol, 0.24 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Di-tert-butyl dicarbonate | 1.22 mmol, 0.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyloxycarbonyl-3-(tert-butoxycarbonylamino)-4-methoxy-3-methylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C)NC(=O)OC(C)(C)C | C19H28N2O5
